US07838528B2
a) tert-Butyl 5-[3-methyl-7-(3-methyl-but-2-enyl)-2,6-dioxo-1-(2-oxo-2-phenyl-ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-cis-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylate
52 mg of 8-bromo-3-methyl-7-(3-methyl-but-2-enyl)-1-(2-oxo-2-phenyl-ethyl)-3,7-dihydro-purine-2,6-dione were dissolved in 1 ml of DMF, and 56 mg of tert-butyl cis-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate and 36.5 mg of potassium carbonate were added. The mixture was stirred at 90° C. for 5 hours, cooled and evaporated in a vacuum. The oily residue was purified by column chromatography (silica gel: mobile phase: methylene chloride: methanol=98:2).

reactant | 8-bromo-3-methyl-7-(3-methyl-but-2-enyl)-1-(2-oxo-2-phenyl-ethyl)-3,7-dihydro-purine-2,6-dione | 52 mg | BrC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | C19H19BrN4O3
reactant | tert-butyl cis-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate | 56 mg | C1N(C[C@@H]2[C@H]1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | potassium carbonate | 36.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 5-[3-methyl-7-(3-methyl-but-2-enyl)-2,6-dioxo-1-(2-oxo-2-phenyl-ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-cis-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylate | CN1C(N(C(C=2N(C(=NC12)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C)CC=C(C)C)=O)CC(C2=CC=CC=C2)=O)=O | C30H38N6O5
